US08735630B2
Synthesis of 1-methoxy-3-(phenylethynyl)-benzene (FIG. 6, Entry 6; W. Shen, W. Le J. Org. Chem. 1999, 64, 8873.)
The general procedure described in Example 27 was used with 3-chloroanisole (0.063 mL, 0.50 mmol), phenylacetylene (0.072 mL, 0.65 mmol), PdCl2(CH3CN)2 (3.2 mg, 0.0125 mmol, 1.25 mol %), sodium 2′-(dicyclohexyl-phosphanyl)-2,6-diisopropyl-biphenyl-4-sulfonate (20.0 mg, 0.0375 mmol, 3.75 mol %), Cs2CO3 (650 mg, 2.00 mmol), water (1.0 mL), acetonitrile (1.5 mL), 12 h, 100° C. The product was isolated as a white solid (99 mg, 95%). Mp=70° C. (lit. 72-74° C.). 1H NMR (400 MHz, CDCl3) δ: 7.62 (m, 2H), 7.41 (m, 3H), 7.32 (t, 1H, J=7.6 Hz), 7.23 (dt, 1H, J=1.2 Hz, 7.6 Hz), 7.15 (m, 1H), 6.96 (qd, 1H, J=1.2 Hz, 2.4 Hz, 7.6 Hz). 13C NMR (125 MHz, CDCl3) δ: 159.5, 131.8, 129.6, 128.5, 128.48, 124.4, 124.3, 123.3, 116.5, 115.1, 89.5, 89.4, 55.4.

reactant | 3-chloroanisole | 0.50 mmol, 0.063 mL | ClC=1C=C(C=CC1)OC | C7H7ClO
reactant | phenylacetylene | 0.65 mmol, 0.072 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | Cs2CO3 | 2.00 mmol, 650 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 1.0 mL | O | H2O
catalyst | sodium 2′-(dicyclohexyl-phosphanyl)-2,6-diisopropyl-biphenyl-4-sulfonate | 0.0375 mmol, 20.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)S(=O)(=O)[O-])C(C)C)C1CCCCC1.[Na+]
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | 1-methoxy-3-(phenylethynyl)-benzene | 99 mg, 95% | COC1=CC(=CC=C1)C#CC1=CC=CC=C1 | C15H12O
